US08791255B2
The product is prepared according to the procedure described in Example 5, using 500 mg of sodium [4-(morpholin-4-yl)-6-oxo-1,6-dihydropyrimidin-2-yl]acetate and 510 mg of 4-fluoro-3-nitroaniline in place of the 2,4-difluoroaniline. 339 mg of N-(4-fluoro-3-nitrophenyl)-2-[4-(morpholin-4-yl)-6-oxo-1,6-dihydropyrimidin-2-yl]acetamide are obtained in the form of a white solid, the characteristics of which are the following:

reactant | sodium [4-(morpholin-4-yl)-6-oxo-1,6-dihydropyrimidin-2-yl]acetate | 500 mg | N1(CCOCC1)C=1N=C(NC(C1)=O)CC(=O)[O-].[Na+]
reactant | 4-fluoro-3-nitroaniline | 510 mg | FC1=C(C=C(N)C=C1)[N+](=O)[O-] | C6H5FN2O2
product | N-(4-fluoro-3-nitrophenyl)-2-[4-(morpholin-4-yl)-6-oxo-1,6-dihydropyrimidin-2-yl]acetamide | 339 mg | FC1=C(C=C(C=C1)NC(CC=1NC(C=C(N1)N1CCOCC1)=O)=O)[N+](=O)[O-] | C16H16FN5O5
